US08486965B2
Production of ethyl 2-chloro-4-methylbenzoate
A mixture of 2-chloro-4-methylbenzonitrile (5.5 g, 36.28 mmol), conc. sulfuric acid (30 mL) and ethanol (30 mL) was heated under reflux for 22 hr. The reaction mixture was ice-cooled, and neutralized with 8N aqueous sodium hydroxide solution, and ethanol was evaporated. The residue was extracted with ethyl acetate, and the extract was washed with brine, dried over magnesium sulfate and concentrated under reduced pressure. The residue was diluted with ethyl acetate-hexane (1:10, 120 mL). The insoluble material was filtered off, and the filtrate was under reduced pressure and concentrated to give the title compound (3.23 g, 45%) as a pale-brown liquid.

reactant | 2-chloro-4-methylbenzonitrile | 36.28 mmol, 5.5 g | ClC1=C(C#N)C=CC(=C1)C | C8H6ClN
reactant | sulfuric acid | 30 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 8N | [OH-].[Na+]
reactant | ethanol | C(C)O | C2H6O
reactant | ethanol | 30 mL | C(C)O | C2H6O
product | ethyl 2-chloro-4-methylbenzoate | 3.23 g, 45% | ClC1=C(C(=O)OCC)C=CC(=C1)C | C10H11ClO2
